US07253292B2
i) Synthesis of chloro(dimethyl)(2-methyl-8H-indeno[2,1-b]thiophen-8-yl)silane
Suspension of 1.86 g (0.01 mol) 2-methyl-8H-indeno[2,1-b]thiophene in 25 mL ether was treated dropwise with 6.25 mL (0.01 mol) of 1.6M BuLi in hexane at −40° C. under stirring. Then the mixture was stirred in additional 3 h. The resulting mixture was treated with 1.20 mL (0.01 mol) of dimethyldichlorosilane in 5 mL of ether at −70° C.; then it was allowed to warm to r.t. and stirred overnight. The solution was isolated and evaporated to give 2.47 g (89%) of the crude product that was used without further purification.

reactant | 2-methyl-8H-indeno[2,1-b]thiophene | 0.01 mol, 1.86 g | CC1=CC2=C(S1)CC=1C=CC=CC12 | C12H10S
reactant | BuLi | 0.01 mol, 1.6M, 6.25 mL | [Li]CCCC
reactant | dimethyldichlorosilane | 0.01 mol, 1.20 mL | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 5 mL | CCOCC | C4H10O
product | chloro(dimethyl)(2-methyl-8H-indeno[2,1-b]thiophen-8-yl)silane | 2.47 g, 89% | Cl[Si](C1C=2C=CC=CC2C2=C1SC(=C2)C)(C)C | C14H15ClSSi
